US07888352B2
To a solution of 2,3-lutidine (0.51 mL) in fuming sulfuric acid (10 mL) at 155° C. was added bromine (0.3 mL) dropwise over 2 h. The reaction mixture was then heated at 155° C. for 16 h. After cooling to room temperature, the mixture was poured onto ice and the ph adjusted to 10 with aqueous sodium hydroxide solution. The product was extracted into ethylacetate (3×40 mL) and the organic layers were dried (MgSO4), reduced in vacuo and purified on silica to give 5-bromo-2,3-dimethyl-pyridine as a yellow oil.

reactant | 2,3-lutidine | 0.51 mL | N1=C(C(=CC=C1)C)C | C7H9N
reactant | bromine | 0.3 mL | BrBr | Br2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
product | 5-bromo-2,3-dimethyl-pyridine | BrC=1C=C(C(=NC1)C)C | C7H8BrN
